US05187289
39.0 g (0.1 mol) of 2-nitro-4-chloro-2'-hydroxy-3',5'-di-t-butylazobenzene, 0.125 g of 5% palladium carbon, 100 ml of toluene, 60 ml of 2-butanol, 120 ml of water and 7 g of tributylamine were charged into a 500-ml stainless autoclave with an agitator. Reaction was effected in the same manner as that employed in Example 1. After the reaction had been completed, after treatment was performed in the same way as that employed in Example 1 to obtain 28.1 g of 2-(2'-hydroxy-3',5'-di-t-butylphenyl)-5-chlorbenzotriazole(yield, 78.6%; melting point, 152° to 153° C.).

reactant | 2-nitro-4-chloro-2'-hydroxy-3',5'-di-t-butylazobenzene | 0.1 mol, 39.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H24ClN3O3
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-butanol | 60 ml | CC(CC)O | C4H10O
reactant | tributylamine | 7 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium carbon | 0.125 g | [C].[Pd]
solvent | water | 120 ml | O | H2O
product | 2-(2'-hydroxy-3',5'-di-t-butylphenyl)-5-chlorbenzotriazole | 28.1 g, 78.6% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C20H24ClN3O
